US07034018B2
Dimethyl-[phenyl-(1-phenyl-1H-pyrrol-2-yl)-methyl]-amine
The preparation was carried out in accordance with general synthesis instructions 4 from 1-phenyl-1H-pyrrole and benzylidene-dimethyl-ammonium chloride.

reactant | 1-phenyl-1H-pyrrole | C1(=CC=CC=C1)N1C=CC=C1 | C10H9N
reactant | benzylidene-dimethyl-ammonium chloride | [Cl-].C(C1=CC=CC=C1)=[N+](C)C
product | Dimethyl-[phenyl-(1-phenyl-1H-pyrrol-2-yl)-methyl]-amine | CN(C(C=1N(C=CC1)C1=CC=CC=C1)C1=CC=CC=C1)C | C19H20N2
